US04944795
A five liter four neck round bottom flask equipped with thermometer, cold bath, mechanical stirrer and inlet tube for subsurface gas introduction was charged with 470 g of ethyl 2,2-dimethylbut-3-enoate (prepared according to the procedure of J. L. Hermann, G. R. Kiecgykowski, and R. H. Schessinger, Tetr. Lett., 2425 (1973)) and 2500 mL of chloroform. The solution was cooled to 0° C. and chlorine was bubbled into the solution at a rate that kept the internal temperature below 10° C. (3 hours total addition time). After removal of solvent, the residue (703 g) was taken up in 2500 mL of DMF and cooled to -5° C. Potassium t-butoxide (636 g) was added to the stirred solution at a rate such that the temperature remained below 0° C. (2.3 hours total addition time). After the addition was complete, the solution was stirred an additional 1 hour, then poured onto 3 L of ice and water and extracted into 2× 2 L of hexane. The combined hexane fraction was washed with 2×200 mL of saturated brine solution, dried over Na2SO4 and stripped to give 422 g of (E)-ethyl-4-chloro-2,2-dimethylbut-3-enoate an oil. This was then added over 1/2 hour to a stirred, cooled (-5° C.) solution of KOH (280 g) in methanol (1 L). Stirring was continued for 16 hours at ambient temperature, then the solution was poured into 3 L of ice water and extracted with 2×2 L of ether. The aqueous layer was then acidified to pH 2 using concentrated HCl, and extracted with 2×2 L of ether. The combined acid extracts were dried over Na2SO4 and stripped of solvent to give 222 g of an oil.

reactant | ethyl 2,2-dimethylbut-3-enoate | 470 g | CC(C(=O)OCC)(C=C)C | C8H14O2
reactant | chloroform | 2500 mL | C(Cl)(Cl)Cl | CHCl3
product | (E)-ethyl-4-chloro-2,2-dimethylbut-3-enoate | 422 g | C(C)OC(C(\C=C\Cl)(C)C)=O | C8H13ClO2
